US04031226
A mixture of 1.2 parts of N-(2-bromoethyl)-2-nitrobenzamide, 1.15 parts of 1-phenyl-1,3,8-triazaspiro[4,5]decan-4-one and 45 parts of N,N-dimethylformamide is stirred and refluxed for 3 hours. After stirring is continued overnight at room temperature, N,N-dimethylformamide is evaporated in vacuo at 80° C. The residue is boiled in a mixture of 2-propanone and water and the unreacted starting material is filtered off. The filtrate is concentrated to half its volume and 2-propanol is added to the concentrate. The precipitated product is filtered off and dried, yielding 7 parts of 2-nitro-N-[2-(4-oxo-1-phenyl-1,3,8-triazaspiro[4,5]dec-8-yl)-ethyl]benzamide hydrobromide; mp. 259.4° C.

reactant | N-(2-bromoethyl)-2-nitrobenzamide | BrCCNC(C1=C(C=CC=C1)[N+](=O)[O-])=O | C9H9BrN2O3
reactant | 1-phenyl-1,3,8-triazaspiro[4,5]decan-4-one | C1(=CC=CC=C1)N1CNC(C12CCNCC2)=O | C13H17N3O
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | 2-nitro-N-[2-(4-oxo-1-phenyl-1,3,8-triazaspiro[4,5]dec-8-yl)-ethyl]benzamide hydrobromide | Br.[N+](=O)([O-])C1=C(C(=O)NCCN2CCC3(C(NCN3C3=CC=CC=C3)=O)CC2)C=CC=C1 | InChI=1S/C22H25N5O4.BrH/c28-20(18-8-4-5-9-19(18)27(30)31)23-12-15-25-13-10-22(11-14-25)21(29)24-16-26(22)17-6-2-1-3-7-17;/h1-9H,10-16H2,(H,23,28)(H,24,29);1H
